US07923451B2
Step A: 2-Amino-6-(tetrahydro-furan-3-yl)-3H-pyrimidin-4-one.
To a solution of 3-oxo-3-(tetrahydro-furan-3-yl)-propionic acid ethyl ester (4.0 g, 21.5 mmol) and guanidine hydrochloride (2.6 g, 27.2 mmol) in MeOH (125 mL) at 23° C. was added potassium tert-butoxide in portions (3.4 g, 30.3 mmol) over 5 min. The reaction was heated at 80° C. for 18 h. The mixture was filtered while warm to remove insoluble salts, and the filtrate was concentrated to afford an oil which was diluted with water (˜25 mL) and extracted with EtOAc (8×50 mL). The combined organic layers were washed with satd. aq. NaCl, dried, and concentrated to give a residue. The aqueous portion was concentrated to afford a solid residue that was collected and rinsed with MeOH. The residue and solid materials were combined and chromatographed (2 M NH3 in MeOH/EtOAc) to provide 2.02 g of product as a white solid (51%). MS (ESI): mass calcd. for: C8H11N3O2, 181.1; m/z found, 182.2 [M+H]+. 1H NMR (CD3OD): 5.66 (br s, 1H), 3.93-4.01 (m, 2H), 3.75-3.85 (m, 2H), 3.28-3.31 (m, 2H), 3.16-3.24 (m, 1H), 2.18-2.27 (m, 1H), 2.05-2.15 (m, 1H).

reactant | 3-oxo-3-(tetrahydro-furan-3-yl)-propionic acid ethyl ester | 21.5 mmol, 4.0 g | C(C)OC(CC(C1COCC1)=O)=O | C9H14O4
reactant | guanidine hydrochloride | 27.2 mmol, 2.6 g | Cl.NC(=N)N
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | MeOH | 125 mL | CO | CH4O
solvent | water | ˜25 mL | O | H2O
product | 2-Amino-6-(tetrahydro-furan-3-yl)-3H-pyrimidin-4-one | 2.02 g, 51% | NC1=NC(=CC(N1)=O)C1COCC1 | C8H11N3O2
